US06028195
b) 1-[(2-Methylquinolin-3-yl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine
Phenyl N-(2-methylquinolin-3-yl)carbamate(140 mg, 0.5 mmol) and 1-(3,5-dimethoxyphenyl)piperazine(112 mg, 0.5 mmol) were dissolved in tetrahydrofuran and DBU(117 mg, 0.75 mmol) was added and then the mixture was stirred at room temperature for 2 hrs. The above solution was concentrated under the reduced pressure to remove tetrahydrofuran and purified by column chromatography(ethylacetate:hexane=1:2) to obtain the titled compound.

reactant | Phenyl N-(2-methylquinolin-3-yl)carbamate | 0.5 mmol, 140 mg | CC1=NC2=CC=CC=C2C=C1NC(OC1=CC=CC=C1)=O | C17H14N2O2
reactant | 1-(3,5-dimethoxyphenyl)piperazine | 0.5 mmol, 112 mg | COC=1C=C(C=C(C1)OC)N1CCNCC1 | C12H18N2O2
reactant | DBU | 0.75 mmol, 117 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-[(2-Methylquinolin-3-yl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine | yield: 84% | CC1=NC2=CC=CC=C2C=C1NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)OC)OC | C23H26N4O3
